US04009129
i. Comonomer D -- 2-(1,2-dichloroethyl)-4-(4-hydroxybutyl)-1,3-dioxolane
Liquid chlorine (228 ml.; 5 moles) was added to a solution of Comonomer B (860 grams; 5 moles), that is, 2-vinyl-4-(4-hydroxybutyl)-1,3-dioxolane, in 3600 ml. of carbon tetrachloride over a period of 4.5 hours while maintaining the temperature at 20°-30° C. by means of intermittent cooling with an ice-bath. When the addition of chlorine was complete, the mixture was stirred at ambient temperature overnight. After removal of solvent by heating the mixture at 51° C. and 1 mm. mercury pressure for one hour, the product was obtained as a colorless viscous material.

reactant | chlorine | 5 moles, 228 ml | ClCl | Cl2
reactant | 2-vinyl-4-(4-hydroxybutyl)-1,3-dioxolane | C(=C)C1OCC(O1)CCCCO | C9H16O3
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1,2-dichloroethyl)-4-(4-hydroxybutyl)-1,3-dioxolane | ClC(CCl)C1OCC(O1)CCCCO | C9H16Cl2O3
